US05196539
Example 6: Preparation of N-(2-Acetyloxyethyl)-pyridinium Tetraphenylborate
To a solution of 24.61 grams (0.10 mol) of N-(2-acetyloxyethyl)pyridinium bromide in 250 milliters of water there was added a solution of 34.24 grams (0.10 mol) of sodium tetraphenylborate in 150 milliters of water. An oily precipitate formed which was treated with 500 milliters of water to give a white solid. The solid was collected and recrystallized from acetonitrile. The yield of product was 39.8 grams (81.99 % of theory); mp=223°-224° C.

reactant | N-(2-acetyloxyethyl)pyridinium bromide | 0.10 mol, 24.61 grams | [Br-].C(C)(=O)OCC[N+]1=CC=CC=C1
reactant | sodium tetraphenylborate | 0.10 mol, 34.24 grams | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
solvent | water | O | H2O
product | N-(2-Acetyloxyethyl)-pyridinium Tetraphenylborate | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(=O)OCC[N+]1=CC=CC=C1 | InChI=1S/C24H20B.C9H12NO2/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-9(11)12-8-7-10-5-3-2-4-6-10/h1-20H;2-6H,7-8H2,1H3/q-1;+1
